US08017630B2
2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide
n-Butyllithium (1.6 M solution in hexane; 11.9 ml; 19 mmol) was added dropwise at 0° C. to a solution of p-tolylamine (1.02 g; 9.5 mmol) in 10 ml THF. The mixture was allowed to come to RT and was subsequently stirred for 1 h. A solution of (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester (2.5 g; 8.6 mmol) in 15 ml THF was added dropwise at −78° C. The mixture was subsequently stirred for 1 h and then allowed to come to RT. It was hydrolysed with ammonium chloride solution and extracted with MC. After concentration, the crude product was taken up in ether. A solid then remained (less polar diastereoisomer; 1.518 g; 50%); the supernatant was chromatographed on silica gel (eluent:ether, then ether/methanol 4:1). 142 mg (4.7%) of the less polar and 1.20 g (40%) of the more polar diastereoisomer were obtained.

reactant | n-Butyllithium | 19 mmol, 1.6 M, 11.9 ml | C(CCC)[Li]
reactant | p-tolylamine | 9.5 mmol, 1.02 g | CC=1C=CC(=CC1)N | C7H9N
reactant | (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester | 8.6 mmol, 2.5 g | C(C)OC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C18H27NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-p-tolyl-acetamide | CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)C)C1=CC=CC=C1)C | C23H30N2O
